US07291744B2
Step d: Preparation of (2-{[3-(4-fluorophenyl)-2,2-dimethylpropylamino]methyl}cyclohexyl)-carbamic acid benzyl ester
3-(4-Fluorophenyl)-2,2-dimethylpropylamine (253 mg, 1.39 mmol) and (2-formylcyclohexyl)carbamic acid benzyl ester (363 mg, 1.39 mmol) were dissolved in methanol (6 mL) and stirred at room temperature for 4 h. Sodium borohydride (84 mg, 2.22 mmol) was added, and the mixture was stirred for 30 min. 1.0 M aqueous sodium hydroxide was added, and the mixture was extracted with ether. The organic phase was washed with saturated aqueous sodium chloride and dried over sodium sulfate, and concentrated under vacuum. The residue was purified by flash column chromatography on silica gel, eluting with 5% methanol in dichloromethane containing 0.5% aqueous ammonium hydroxide, to provide a colorless gum (450 mg, 76%).

reactant | 3-(4-Fluorophenyl)-2,2-dimethylpropylamine | 1.39 mmol, 253 mg | FC1=CC=C(C=C1)CC(CN)(C)C | C11H16FN
reactant | (2-formylcyclohexyl)carbamic acid benzyl ester | 1.39 mmol, 363 mg | C(C1=CC=CC=C1)OC(NC1C(CCCC1)C=O)=O | C15H19NO3
reactant | Sodium borohydride | 2.22 mmol, 84 mg | [BH4-].[Na+]
reactant | sodium hydroxide | 1.0 M | [OH-].[Na+]
solvent | methanol | 6 mL | CO | CH4O
product | (2-{[3-(4-fluorophenyl)-2,2-dimethylpropylamino]methyl}cyclohexyl)-carbamic acid benzyl ester | 450 mg, 76% | C(C1=CC=CC=C1)OC(NC1C(CCCC1)CNCC(CC1=CC=C(C=C1)F)(C)C)=O | C26H35FN2O2
